US08426411B2
A round bottom flask was charged with THF (1.5 L) followed by the portionwise addition of NaH (60% dispersion in mineral oil, 70.0 g, 1.75 mol). Additional THF (500 mL) was added and the resulting mixture was cooled to about −10° C. Ethyl propionylacetate (250 mL, 1.80 mol) was added dropwise over about 1 h in order to keep internal temperature below about 10° C. The resulting mixture was stirred at ambient temperature for about 0.5 h to give a clear yellow solution and then methyl 4-chloroacetoacetate (100 mL, 0.88 mol) was added dropwise over about 5 min. The resulting mixture was heated at about 50° C. for about 19 h to give a reddish orange suspension. The reaction mixture was cooled to ambient temperature, concd under reduced pressure and the resulting liquid was transferred to a beaker and diluted with water (350 mL). The mixture was stirred in an ice bath for about 2 h. The solid was collected by vacuum filtration and the filter cake was rinsed with water (150 mL) and dried under vacuum for about 1 h. The solid was suspended in Et2O (1.5 L), filtered, washed with Et2O (1.5 L), and dried under vacuum. The resulting solid was azeotroped with toluene (1 L) to give a solid that was re-suspended in Et2O (1 L) and collected by vacuum filtration. The filter cake was washed with Et2O (500 mL) and dried under vacuum to give sodium 4-(ethoxycarbonyl)-3-ethyl-2-(methoxycarbonyl)cyclopenta-1,3-dienolate (204.2 g, 89%) as beige solid: 1H NMR (DMSO-d6) δ 3.94 (q, J=7.1 Hz, 2H), 3.46 (s, 3H), 3.04 (q, J=7.2 Hz, 2H), 2.66 (s, 2H), 1.13 (t, J=7.1 Hz, 3H), 0.99 (t, J=7.3 Hz, 3H).

reactant | THF | 1.5 L | C1CCOC1 | C4H8O
reactant | NaH | 1.75 mol, 70.0 g | [H-].[Na+]
reactant | THF | 500 mL | C1CCOC1 | C4H8O
reactant | Ethyl propionylacetate | 1.80 mol, 250 mL | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | methyl 4-chloroacetoacetate | 0.88 mol, 100 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | water | 350 mL | O | H2O
solvent | Et2O | 1 L | CCOCC | C4H10O
product | sodium 4-(ethoxycarbonyl)-3-ethyl-2-(methoxycarbonyl)cyclopenta-1,3-dienolate | 204.2 g, 89% | C(C)OC(=O)C1=C(C(=C(C1)[O-])C(=O)OC)CC.[Na+] | InChI=1S/C12H16O5.Na/c1-4-7-8(11(14)17-5-2)6-9(13)10(7)12(15)16-3;/h13H,4-6H2,1-3H3;/q;+1/p-1
